US09029359B2
N-benzyl-2-(phenylamino)-N-(1-(7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidin-3-yl)acetamide.
To a solution of N-phenylglycine (29 mg, 0.2 mmol), HATU (75 mg, 0.2 mmol), Et3N (50 μL, 0.4 mmol) in DMF (3 mL) was added N-benzyl-1-(7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidin-3-amine (90 mg, 0.2 mmol). After stirring at rt for 4 h, the solution was diluted with EtOAc and washed with water, aq. citric acid and aq. NaHCO3. The organic phase was dried (Na2SO4), filtered and concentrated in vacuo to afford a residue which was purified by column chromatography (silica gel, gradient EtOAc in hexanes) to afford the title compound.

reactant | N-phenylglycine | 0.2 mmol, 29 mg | C1(=CC=CC=C1)NCC(=O)O | C8H9NO2
reactant | HATU | 0.2 mmol, 75 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 0.4 mmol, 50 μL | CCN(CC)CC | C6H15N
reactant | N-benzyl-1-(7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidin-3-amine | 0.2 mmol, 90 mg | C(C1=CC=CC=C1)NC1CN(CCC1)C=1C2=C(N=CN1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C25H27N5O2S
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-benzyl-2-(phenylamino)-N-(1-(7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidin-3-yl)acetamide | 52% yield | C(C1=CC=CC=C1)N(C(CNC1=CC=CC=C1)=O)C1CN(CCC1)C=1C2=C(N=CN1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C33H34N6O3S
